US05827638
193 g of methyl 3-aminocinnamate and 900 ml of formic acid were mixed and heated under reflux for 2 hours. The reaction solution was poured into water and the crystals (methyl 3-formamidocinnamate) obtained were collected by filtration. Yield: 127 g.

reactant | methyl 3-aminocinnamate | 193 g | NC=1C=C(C=CC(=O)OC)C=CC1 | C10H11NO2
reactant | formic acid | 900 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | methyl 3-formamidocinnamate | C(=O)NC=1C=C(C=CC(=O)OC)C=CC1 | C11H11NO3
